US08053456B2
Impure 6-bromo-3,5-dimethoxy-pyridine-2-carbonitrile (462 mg; <1.9 mmol) was dissolved in tetrahydrofuran (20 mL) under nitrogen, and to the solution was added 1,3-bis(diphenylphosphino)propane nickel (II) chloride (105 mg; 0.19 mmol). The solution was cooled to 0° C., and a solution of ethyl magnesium bromide (1.0 molar in THF; 2.7 mL; 1.4 eq.) was slowly added. The reaction was stirred for five minutes, and quenched with saturated aqueous ammonium chloride (10 mL). To the reaction was added ethyl acetate (40 mL) and water (40 mL). The organic layer was isolated, dried over sodium sulfate, evaporated, and purified by column chromatography to give 6-ethyl-3,5-dimethoxy-pyridine-2-carbonitrile (114 mg; 0.6 mmol).

reactant | 6-bromo-3,5-dimethoxy-pyridine-2-carbonitrile | <1.9 mmol, 462 mg | BrC1=C(C=C(C(=N1)C#N)OC)OC | C8H7BrN2O2
reactant | ethyl magnesium bromide | 1.0 molar, 2.7 mL, 1.4 eq. | C(C)[Mg]Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | 1,3-bis(diphenylphosphino)propane nickel (II) chloride | 0.19 mmol, 105 mg | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | 6-ethyl-3,5-dimethoxy-pyridine-2-carbonitrile | 0.6 mmol, 114 mg | C(C)C1=C(C=C(C(=N1)C#N)OC)OC | C10H12N2O2
